US05240943
N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]2-benzofurancarboxamide
To a stirred solution of 2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethanal (875 mg, 5 mmol) and 4-(2-benzofurancarboxamido) piperidine hydrochloride (1.4 g, 5 mmol) under a nitrogen atmosphere, borane/pyridine complex (0.5 ml, excess) was added. The reaction was stirred overnight (ca 15 h) and evaporated to an oily gum which was neutralized by careful addition of 10% hydrochloric acid. The acidic solution was extracted with diethyl ether. The diethyl ether extracts were discarded. The acidic aqueous layer was basified by dropwise addition of 50% sodium hydroxide. The ethyl acetate layer was washed with distilled water, dried (Na2SO4), filtered and evaporated to afford an oily gum (520 mg). The resulting gum was purified by chromatography on silica (eluant: chloroform/ethanol/ammonium hydroxide; 85/14/1) to afford an oil (260 mg) which was crystallized from diethyl ether to afford the title compound (150 mg, 7%), mp=146-8°. Anal: C25H28N2O3 0.5 H2O, Calc. C, 72.62; H, 7.07; N, 6.77; Found C,72.40; H, 6.94; N, 6.83.

reactant | 2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethanal | 5 mmol, 875 mg | O1CCC(C2=C1C=CC=C2)CC=O | C11H12O2
reactant | 4-(2-benzofurancarboxamido) piperidine hydrochloride | 5 mmol, 1.4 g | Cl.O1C(=CC2=C1C=CC=C2)C(=O)NC2CCNCC2
product | N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]2-benzofurancarboxamide | 520 mg | O1CCC(C2=C1C=CC=C2)CCN2CCC(CC2)NC(=O)C=2OC1=C(C2)C=CC=C1 | C25H28N2O3
